### PR TITLE
Add Erdős Problem 664 (bounded transversals of linear set systems), link the formal proof

### LINKED ISSUE #6366: Erdős Problem 664
### What is the Erdős problem?

https://www.erdosproblems.com/664

Let $c<1$ be some constant and $A_1,\ldots,A_m\subseteq \{1,\ldots,n\}$ be such that $\lvert A_i\rvert >c\sqrt{n}$ for all $i$ and $\lvert A_i\cap A_j\rvert\leq 1$ for all $i\neq j$. Must there exist some set $B$ such that $B\cap A_i\neq \emptyset$ and $\lvert B\cap A_i\rvert \ll_c 1$ for all $i$?

Status: disproved (Alon, random subsets of the lines of a projective plane). A formal proof exists in plby/lean-proofs (`Erdos664.not_erdos_664`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6366.

### What changed
Adds `FormalConjectures/ErdosProblems/664.lean`:
- `erdos_664` (`research solved`, `answer(False)`): for `0 < c < 1`, linear families of sets of size `> c√n` need not admit a transversal meeting every set in `O_c(1)` points (Alon).
- `variants.two_fifths`: the counterexample for `c = 2/5`.

Both linked to plby/lean-proofs `Erdos664.not_erdos_664` (Codex and GPT-5.6 Sol; 3 Mathlib-only files).
- Open variant: the pairwise-balanced-block-design version from [Er81].

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos664.not_erdos_664` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter Real Finset

namespace Bridge664

lemma bound_of {K : ℕ}
    (h : ∀ (n m : ℕ) (A : Fin m → Finset (Fin n)),
      (∀ i, 2 / 5 * √n < (A i).card) → (∀ i j, i ≠ j → (A i ∩ A j).card ≤ 1) →
        ∃ B : Finset (Fin n), (∀ i, (B ∩ A i).Nonempty) ∧ ∀ i, (B ∩ A i).card ≤ K) :
    Erdos664Plby.HasUniformTransversalBound (2 / 5 : ℝ) K := by
  intro n m A hA hlin
  obtain ⟨B, hB, hK⟩ := h n m A hA fun i j hij => hlin hij
  exact ⟨B, hB, hK⟩

theorem two_fifths : type_of% Erdos664.erdos_664.variants.two_fifths := by
  rintro ⟨K, hK⟩
  exact Erdos664Plby.not_erdos_664 ⟨K, bound_of hK⟩

theorem erdos_664_bridge : type_of% Erdos664.erdos_664 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨K, hK⟩ := h (2 / 5) (by norm_num) (by norm_num)
  exact Erdos664Plby.not_erdos_664 ⟨K, bound_of hK⟩

#print axioms Erdos664Plby.not_erdos_664
#print axioms erdos_664_bridge
#print axioms two_fifths

end Bridge664
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«664»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/664.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/664.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
